US06057337
2-(1-Docosanoyl-2-piperidyl)ethyl N-(3-morpholinopropyl)carbamate hydrochloride (Compound 21)
4N hydrochloric acid/ethyl acetate solution (1.35 ml) was added to a solution of 2-(1-docosanoyl-2-piperidyl)ethyl N-(3-morpholinopropyl)carbamate (2.800 g) in ethyl acetate (28 ml), while being cooled with ice. After being stirred for 0.5 hour, the reaction mixture was concentrated. The residue was recrystallized with ethyl acetate, thereby yielding the entitled compound (2.546 g) as white solid.

reactant | hydrochloric acid ethyl acetate | 4N, 1.35 ml | Cl.C(C)(=O)OCC
reactant | 2-(1-docosanoyl-2-piperidyl)ethyl N-(3-morpholinopropyl)carbamate | 2.800 g | O1CCN(CC1)CCCNC(OCCC1N(CCCC1)C(CCCCCCCCCCCCCCCCCCCCC)=O)=O | C37H71N3O4
solvent | ethyl acetate | 28 ml | C(C)(=O)OCC | C4H8O2
product | 2-(1-Docosanoyl-2-piperidyl)ethyl N-(3-morpholinopropyl)carbamate hydrochloride | 2.546 g | Cl.O1CCN(CC1)CCCNC(OCCC1N(CCCC1)C(CCCCCCCCCCCCCCCCCCCCC)=O)=O | InChI=1S/C37H71N3O4.ClH/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-20-25-36(41)40-29-22-21-24-35(40)26-32-44-37(42)38-27-23-28-39-30-33-43-34-31-39;/h35H,2-34H2,1H3,(H,38,42);1H
